US05389687
Preparation of 2-Methylamino-8-chloro-1,2,3,4-tetrahydronaphthalene.
To a solution of 8-chloro-2-amino-1,2,3,4-tetrahydronaphthalene (250 mg, 1.38 mMol) in tetrahydrofuran (25 mL) was added triethylamine (0.38 mL, 2.76 mMol) followed by the careful addition of methyl chloroformate (0.26 mL, 2.76 mMol). The reaction mixture was stirred at room temperature for one-half hour. The reaction mixture was then diluted with 10% hydrochloric acid and extracted well with dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo to give a viscous oil. The oil in tetrahydrofuran (5 mL) was added dropwise to a suspension of lithium aluminum hydride (110 mg, 2.76 mMol) in tetrahydrofuran (20 mL). The reaction mixture was stirred for three hours at room temperature and then one hour at reflux. The reaction mixture was then cooled to 0° C., and to it were added sequentially water (0.1 mL), 15% aqueous sodium hydroxide (0.1 mL) and water (0.3 mL). The suspension was then stirred at room temperature for two hours and then was filtered through a bed of Celite. The filtrate was concentrated in vacuo to give the title compound as a yellow viscous oil (240 mg 89%). The hydrochloride salt was formed and recrystallized (ethanol/diethyl ether) to give colorless crystals (m.p.=214°-215° C.).

reactant | 8-chloro-2-amino-1,2,3,4-tetrahydronaphthalene | 1.38 mMol, 250 mg | ClC=1C=CC=C2CCC(CC12)N | C10H12ClN
reactant | triethylamine | 2.76 mMol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 2.76 mMol, 0.26 mL | ClC(=O)OC | C2H3ClO2
reactant | lithium aluminum hydride | 2.76 mMol, 110 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.1 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
solvent | water | 0.1 mL | O | H2O
product | 2-Methylamino-8-chloro-1,2,3,4-tetrahydronaphthalene | 240 mg, 89% | CNC1CC2=C(C=CC=C2CC1)Cl | C11H14ClN
